US04304937
In the same flask as in Example 1 were charged 2 g of benzaldehyde, 50 g of dioxane as the reaction medium and 2 g of a catalyst in which 5 percent by weight of palladium metal together with thallium nitrate with an atomic ratio of Pd to Tl being 1 to 0.1. The reaction was conducted at a reaction temperature of 40° C. by introducing ammonia gas at a rate of 1 l/hour and oxygen at a rate of 10 l/hour at the same time into the flask for 2 hours to give benzamide at a yield of 71%.

reactant | benzaldehyde | 2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | thallium nitrate | [N+](=O)([O-])[O-].[Tl+]
reactant | ammonia | N | H3N
reactant | oxygen | O=O | O2
catalyst | palladium | [Pd] | Pd
solvent | dioxane | 50 g | O1CCOCC1 | C4H8O2
product | benzamide | yield of 71% | C(C1=CC=CC=C1)(=O)N | C7H7NO
